US07935702B2
1. 6-Methoxy-3-trifluoromethyl-pyridine-2-carbonitrile
Heat a solution of 2-chloro-6-methoxy-3-trifluoromethyl-pyridine (211 mg, 1.0 mmol), zinc cyanide (64 mg, 0.55 mmol), pd2(dba)3 (45 mg), DPPF (55 mg) in DMF (3 mL) and water (0.03 mL), under a nitrogen atmosphere, at 120° C. for 1.5 hours. Cool the reaction to 0° C. and add a solution of saturated ammonium chloride solution (2 mL), water (2 mL) and concentrated ammonium hydroxide (0.5 mL) and stir for 1 hour. Extract the mixture with ethyl acetate (3×20 mL) and wash the combined organics with brine (50 mL). Dry the organic extract over MgSO4 and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with a 25:1 mixture of hexane:ether to give the title compound.

reactant | 2-chloro-6-methoxy-3-trifluoromethyl-pyridine | 1.0 mmol, 211 mg | ClC1=NC(=CC=C1C(F)(F)F)OC | C7H5ClF3NO
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
reactant | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 0.03 mL | O | H2O
catalyst | zinc cyanide | 0.55 mmol, 64 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | pd2(dba)3 | 45 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 55 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | water | 2 mL | O | H2O
product | 6-Methoxy-3-trifluoromethyl-pyridine-2-carbonitrile | COC1=CC=C(C(=N1)C#N)C(F)(F)F | C8H5F3N2O
